US04703107
GlcA-Ile-Phe-OBzl
To a solution of HCl, H-Ile-Phe-OBzl (1.41 g, 3.5 mmol) in freshly distilled DMF (2 ml) neutralized with triethylamine (0.49 ml, 3.5 mmol), δ-gluconolactone (1.25 g, 7 mmol) and TEA (0.98 ml, 7 mmol) were added. The mixture was stirred at 60° C. for 24 hr. δ-gluconolactane (0.63 g, 3.5 mmol) and TEA (0.43 ml, 3.5 mmol) were then added and the mixture was stirred for 24 h more. The mixture was then filtered and the filtrate evaporated under reduced pressure. The residue was purified by preparative chromatography on a silica gel column eluted with the system chloroform-methanol-water (16:6:1): yield 1.1 g (58%) after precipitation in ether-petroleum ether (1:1, v/v); mp 175°-176° C.; [α]54625 =+1.3° (c=1, DMF); Rf(A) =0.53.

reactant | HCl | Cl | ClH
reactant | H-Ile-Phe-OBzl | 3.5 mmol, 1.41 g | N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C22H28N2O3
reactant | triethylamine | 3.5 mmol, 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | δ-gluconolactone | 7 mmol, 1.25 g | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | GlcA Ile-Phe-OBzl | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)C(O)=O.N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C22H28N2O3.C6H10O7/c1-3-16(2)20(23)21(25)24-19(14-17-10-6-4-7-11-17)22(26)27-15-18-12-8-5-9-13-18;7-1-2(8)4(5(10)11)13-6(12)3(1)9/h4-13,16,19-20H,3,14-15,23H2,1-2H3,(H,24,25);1-4,6-9,12H,(H,10,11)/t16-,19-,20-;1-,2-,3+,4-,6?/m00/s1
